US07795278B2
4-Bromo-1-methoxy-3-methyl-5,6,7,8-tetrahydroisoquinoline (Compound 8)
8.9 g (36.8 mmol) of 4-bromo-3-methyl-5,6,7,8-tetrahydro-2H-isoquinolin-1-one are dissolved in 200 ml of chloroform and, after addition of 13.7 g (49.6 mmol) of silver(I) carbonate and 16.2 ml (36.5 g, 257 mmol) of methyl iodide, stirred at 50° C. for 3 h. After a further 24 h at RT, the suspension is filtered through Celite, concentrated and chromatographed on silica gel using n-heptane with addition of 2% ethyl acetate. A colorless oil (7.8 g, 83% yield) is obtained.

reactant | 4-bromo-3-methyl-5,6,7,8-tetrahydro-2H-isoquinolin-1-one | 36.8 mmol, 8.9 g | BrC1=C(NC(C=2CCCCC12)=O)C | C10H12BrNO
reactant | methyl iodide | 257 mmol, 16.2 ml, 36.5 g | CI | CH3I
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver(I) carbonate | 49.6 mmol, 13.7 g | C([O-])([O-])=O.[Ag+].[Ag+]
product | 4-Bromo-1-methoxy-3-methyl-5,6,7,8-tetrahydroisoquinoline | 7.8 g, 83% yield | BrC1=C(N=C(C=2CCCCC12)OC)C | C11H14BrNO
